US04133885
A mixture of 1-(2-dimethylaminoethyl)-5,7-dimethyl-1,8-naphthyridin-2(1H)-one (2.5 g., 0.01 mole) and phosphorus pentasulfide (2.0 g., 0.009 mole) in 60 ml. of methylene chloride is heated at reflux for 4 hours. The reaction is cooled, water and solid potassium carbonate added, and the organic layer is separated, dried, filtered through charcoal and evaporated to dryness. The residue is dissolved in ether, hydrogen chloride is added and the salt is recrystallized from isopropanol to yield 1-(2-dimethylaminoethyl)-5,7-dimethyl-1,8-naphthyridin-2(1H)-thione hydrochloride m.p. 209-211° C.

reactant | 1-(2-dimethylaminoethyl)-5,7-dimethyl-1,8-naphthyridin-2(1H)-one | 0.01 mole, 2.5 g | CN(CCN1C(C=CC2=C(C=C(N=C12)C)C)=O)C | C14H19N3O
reactant | phosphorus pentasulfide | 0.009 mole, 2.0 g | P12(=S)SP3(=S)SP(=S)(S1)SP(=S)(S2)S3 | P4S10
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | water | O | H2O
product | 1-(2-dimethylaminoethyl)-5,7-dimethyl-1,8-naphthyridin-2(1H)-thione hydrochloride | Cl.CN(CCN1C(C=CC2=C(C=C(N=C12)C)C)=S)C | InChI=1S/C14H19N3S.ClH/c1-10-9-11(2)15-14-12(10)5-6-13(18)17(14)8-7-16(3)4;/h5-6,9H,7-8H2,1-4H3;1H
